US04771050
A mixture of methyl 3,4-dihydro-2-isopropyl-3-oxo-2H-1,4-benzoxazine-4-acetate (26.0 g), phosphorus pentasulfide (44.4 g) and toluene (250 ml) was refluxed for 3 hours with heating. After cooling the insoluble matter was removed by filtration, and the solvent was evaporated off. To the residue, isopropyl ether (200 ml) was added and the insoluble matter was removed by filtration. The solvent was evaporated off, and hexane was added to the residue, to give crystals of methyl 3,4-dihydro-2-isopropyl-3-thioxo-2H-1,4-benzoxazine-4-acetate. Yield was 22.5 g (80.6%). Recrystallization from isopropyl alcohol gave yellow prisms (mp 60°-61° C.).

reactant | methyl 3,4-dihydro-2-isopropyl-3-oxo-2H-1,4-benzoxazine-4-acetate | 26.0 g | C(C)(C)C1OC2=C(N(C1=O)CC(=O)OC)C=CC=C2 | C14H17NO4
reactant | phosphorus pentasulfide | 44.4 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3,4-dihydro-2-isopropyl-3-thioxo-2H-1,4-benzoxazine-4-acetate | C(C)(C)C1OC2=C(N(C1=S)CC(=O)OC)C=CC=C2 | C14H17NO3S
